US09421205B2
(e) tert-Butyl 4-(4-((4-(3-carbamoyl-4-methylphenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate (I73)
A mixture of tert-butyl 4-(4-((4-((3-carbamoyl-4-methylphenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate (I72) (0.092 g, 0.16 mmol) and 10% Pd/C (0.116 g) in DMF (5 mL) was stirred over night under a H2 atmosphere. The mixture was filtered through Celite then concentrated under reduced pressure. The residue was then purified using silica gel column chromatography (0-100% EtOAc/petroleum benzine 40-60° C.) and the product triturated with methanol. The resulting precipitate was collected by vacuum filtration to give the title compound (I73) (29.5 mg, 32%); 1H NMR (400 MHz, d6-DMSO) δ 10.00 (s, 1H), 8.61 (s, 1H), 7.66 (s, 1H), 7.55 (d, J=9.0 Hz, 2H), 7.33 (s, 1H), 7.25 (s, 1H), 7.16 (m, 2H), 6.94 (d, J=9.1 Hz, 2H), 3.46 (m, 4H), 3.04 (m, 8H), 2.32 (s, 3H), 1.42 (s, 9H). LCMS Method C: rt 6.18 min; m/z 585.3 [M+H]+.

reactant | tert-butyl 4-(4-((4-((3-carbamoyl-4-methylphenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate | 0.16 mmol, 0.092 g | C(N)(=O)C=1C=C(C=CC1C)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C30H31F3N6O3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd/C | 0.116 g | [Pd] | Pd
product | tert-Butyl 4-(4-((4-(3-carbamoyl-4-methylphenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate | 29.5 mg, 32% | C(N)(=O)C=1C=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC1C | C30H35F3N6O3
